US08058476B2
Preparation of 3-[2-(dimethylamino)methyl(cyclohex-1-yl)]phenol hydrochloride
In order to prepare the hydrochloride salt, 42 g of the base 3-[2-(dimethylamino)methyl(cyclohex-1-yl)phenol were added to 210 ml methyl ethyl ketone. Subsequently 2 ml water and 23 ml trimethylchlorosilane, dissolved in 45 ml methyl ethyl ketone, were added. The reaction mixture was cooled down to 0° C. by cooling with ice and was kept cold overnight (in a refrigerator at about 4° C.). The solid substance that precipitated out was filtered out by suction using a suction filter, with application of a vacuum, and then washed with 30 ml of acetone. The yield of 3-[2-(dimethylamino)methyl(cyclohex-1-yl)]phenol hydrochloride was 49 g (corresponding to 100% of the theoretical value). According to NMR and GC analyses, the produce was >95% trans diastereomer. The melting-point was 122-126° C.

reactant | 2-(dimethylamino)methyl(cyclohex-1-yl)phenol | CN(C1=C(C=CC(=C1C1CCCCC1)C)O)C | C15H23NO
reactant | water | 2 ml | O | H2O
reactant | trimethylchlorosilane | 23 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | methyl ethyl ketone | 45 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 210 ml | C(C)C(=O)C | C4H8O
product | 3-[2-(dimethylamino)methyl(cyclohex-1-yl)]phenol hydrochloride | Cl.CN(C1C(CCCC1)(C=1C=C(C=CC1)O)C)C | InChI=1S/C15H23NO.ClH/c1-15(12-7-6-8-13(17)11-12)10-5-4-9-14(15)16(2)3;/h6-8,11,14,17H,4-5,9-10H2,1-3H3;1H
